US08067599B2
3-(1-Cyano-1-methyl-ethyl)-benzoic acid
A mixture of 300 mg 3-(1-Cyano-1-methyl-ethyl)-benzoic acid ethyl ester and 165 mg sodium hydroxide in 1 ml ethanol and 0.5 ml water were stirred 2 hrs at RT. 20 ml water were added and the pH was adjusted to 1-2 by addition of conc. hydrochloric acid. The title product precipitated and was isolated by filtration, washed with water and dried, yielding 184 mg.

reactant | 3-(1-Cyano-1-methyl-ethyl)-benzoic acid ethyl ester | 300 mg | C(C)OC(C1=CC(=CC=C1)C(C)(C)C#N)=O | C13H15NO2
reactant | sodium hydroxide | 165 mg | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | 0.5 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 3-(1-Cyano-1-methyl-ethyl)-benzoic acid | C(#N)C(C)(C)C=1C=C(C(=O)O)C=CC1 | C11H11NO2
